US07098350B2
For example, the 2,4,8-undecatrienal is added to a suspension of silver (I) oxide (1.1 eq) in water. The mixture is stirred at 20° C. and 50% sodium hydroxide solution (equal weight to the aldehyde), is added over 30 minutes allowing the batch to exotherm to 60° C. The solution is filtered through celite, and the aqueous filtrate acidified to pH 1 with hydrochloric acid solution, to give 2,4,8-undecatrienoic acid.

reactant | 2,4,8-undecatrienal | C(C=CC=CCCC=CCC)=O | C11H16O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
catalyst | silver (I) oxide | 1.1 eq | [Ag-]=O
product | 2,4,8-undecatrienoic acid | C(C=CC=CCCC=CCC)(=O)O | C11H16O2
